US04666925
A solution of trans-5,6-dichloro-1-isopropyl-2-indanol (0.73 g), in anhydrous tetrahydrofuran (7 ml) was added to a suspension of sodium hydride (0.24 g, oil free) in anhydrous tetrahydrofuran (10 ml). The mixture was stirred for 40 minutes and a solution of 2-(bromomethyl)-6-phenoxypyridine (0.84 g) in anhydrous tetrahydrofuran was added, followed by a catalyst amount of tetra-n-butylammonium iodide, The mixture was stirred at room temperature for 18 hours, mixed with water (100 ml) and extracted with diethyl ether (3×50 ml). The combined ether extracts were dried (MgSO4) and condensed under reduced pressure to give an oil which was purified by flash chromatography to give trans-5,6-dichloro-1-isopropyl-2-((6-phenoxypyridin-2-yl)-methoxy)-indane (1.07 g).

reactant | trans-5,6-dichloro-1-isopropyl-2-indanol | 0.73 g | ClC=1C=C2C[C@H]([C@@H](C2=CC1Cl)C(C)C)O | C12H14Cl2O
reactant | sodium hydride | 0.24 g | [H-].[Na+]
reactant | 2-(bromomethyl)-6-phenoxypyridine | 0.84 g | BrCC1=NC(=CC=C1)OC1=CC=CC=C1 | C12H10BrNO
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | tetra-n-butylammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | trans-5,6-dichloro-1-isopropyl-2-((6-phenoxypyridin-2-yl)-methoxy)-indane | 1.07 g | ClC=1C=C2C[C@H]([C@@H](C2=CC1Cl)C(C)C)OCC1=NC(=CC=C1)OC1=CC=CC=C1 | C24H23Cl2NO2
